US04016262
4.3 g. 6-chloro-9-(β-D-ribofuranosyl)-purine and 7.6 g. methallyl-cyclohexylamine were heated under reflux for 2 hours in 50 ml. butanol. The reaction mixture was evaporated in a vacuum and the residue obtained was dissolved in 50 ml. ethyl acetate and then extracted twice with 50 ml. amounts of water. The organic phase was dried, again evaporated and the residue recrystallized from methanol. 2.6 g. (43% of theory) N(6)-cyclohexyl-N(6)-methallyl-adenosine were obtained; m.p. 110°- 112° C.

reactant | 6-chloro-9-(β-D-ribofuranosyl)-purine | ClC1=C2N=CN(C2=NC=N1)[C@H]1[C@H](O)[C@H](O)[C@H](O1)CO | C10H11ClN4O4
reactant | methallyl-cyclohexylamine | C(C(C)=C)NC1CCCCC1 | C10H19N
solvent | butanol | C(CCC)O | C4H10O
product | N(6)-cyclohexyl-N(6)-methallyl-adenosine | 43% | C1(CCCCC1)N(C=1C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N=CN1)CC(C)=C | C20H29N5O4
